US08802673B2
To a stirred solution of (RS)-1-(6-bromo-5-methylpyridin-3-yl)-2-(2-hydroxyethylamino)ethanol (1.76 g) in THF (20 ml) was added Boc2O (1.54 g) and the mixture was stirred at room temperature for 7 hours. The reaction mixture was then poured into EtOAc and the mixture was washed sequentially with dilute aq. NaOH and saturated brine. The organic layer was dried over Na2SO4 and concentrated in vacuo to afford tert-butyl (RS)-2-(6-bromo-5-methylpyridin-3-yl)-2-hydroxyethyl(2-hydroxyethyl)carbamate (2.57 g) as a colourless oil which was used in the next step without further purification. MS (ISP): MS (ISP): 377.2 ([{81Br}M+H]+), 375.2 ([{79Br}M+H]+), 321.0 ([{81Br}M+H—C4H8]+), 319.0 ([{79Br}M+H—C4H8]+).

reactant | (RS)-1-(6-bromo-5-methylpyridin-3-yl)-2-(2-hydroxyethylamino)ethanol | 1.76 g | BrC1=C(C=C(C=N1)C(CNCCO)O)C | C10H15BrN2O2
reactant | Boc2O | 1.54 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | tert-butyl (RS)-2-(6-bromo-5-methylpyridin-3-yl)-2-hydroxyethyl(2-hydroxyethyl)carbamate | 2.57 g | BrC1=C(C=C(C=N1)C(CN(C(OC(C)(C)C)=O)CCO)O)C | C15H23BrN2O4
